US04882341
By a procedure analogous to that described in Example 1, part of the crude N-(o-chlorocinnamoyl)sarcosine methyl ester (6.99 g), methyl formate (30 ml) and sodium hydride (2.35 g) gave methyl N-(o-chlorocinnamoyl)-N-methyl-2-amino-3-hydroxypropenoate (4.56 g) as an off-white solid, m.p. 129°-130° C.

reactant | N-(o-chlorocinnamoyl)sarcosine methyl ester | 6.99 g | COC(CN(C)C(C=CC1=C(C=CC=C1)Cl)=O)=O | C13H14ClNO3
reactant | sodium hydride | 2.35 g | [H-].[Na+]
reactant | methyl formate | 30 ml | C(=O)OC | C2H4O2
product | methyl N-(o-chlorocinnamoyl)-N-methyl-2-amino-3-hydroxypropenoate | 4.56 g | ClC1=C(C=CC(=O)N(C(C(=O)OC)=CO)C)C=CC=C1 | C14H14ClNO4
